Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Strawberry / Shellfish Derived / Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Extrahepatic bile duct obstruction, recurrent cholangitis
 
Major Surgical or Invasive Procedure:
OR ___:
1. Exploratory laparoscopy.
2. Extensive laparoscopic lysis of adhesions, requiring 90
    minutes.
3. Robot-assisted minimally invasive cholecystectomy.
4. Robot-assisted, minimally invasive, side-to-side Roux-en-Y 
retrocolic choledochojejunostomy.
5. Intraoperative ultrasound.
 
History of Present Illness:
___ year old male with a PMH of colon cancer s/p right 
hemicolectomy and chemo with presumed metastitic disease to the 
liver presenting for elective robotic cholecystectomy and 
hepaticojejunostomy reconstruction for recurrent cholangitis ___ 
CBD stricture.

He originally developed dark urine many years ago, in the early 
___ .  He was diagnosed with a biliary strictures presumed due 
to chronic choledocholithiasis and stone passaged and was 
managed with ERCP and plastic stents.  Since this time he has 
had multiple metal stents placed and multiple episodes of 
recurrent biliary obstruction, cholangitis, and pancreatitis.  
His metal stents were removed in ___ and he had 2 
subsequent episodes of cholangitis and pancreatitis.  MRCP at 
time showed gallbladder stones, moderate intrahepatic and 
extrahepatic biliary ductal dilatation, as well as a long 
segment of mail pancreatic ductal dilatation extending to the 
CBD junction, with apparently a long common channel extending to 
the duodenum.   

He was seen in Dr. ___ clinic and opted to 
undergo elective robotic cholecystectomy and hepatojejunostomy.  
The numerous risks and benefits of the surgery had been 
discussed with Mr. ___ and are documented in a separate note.
 
Past Medical History:
Metastatic colon cancer diagnosed he believes in ___ s/p 
resection followed by what sounds like FOLFOX and AVASTIN, but 
he is not sure. 
Hypothyroidism
HTN
Diabetes, diet controlled
chronic renal insufficiency
psoriasis
biliary stricture
recurrent cholangitis
vertigo
gout

PSH:
Right hemicolectomy (___, early ___)
cataracts
portacath placement and removal
hand surgery
multiple ERCP/stenting procedures 
 
Social History:
___
Family History:
No cancers in family. Father died in ___ of unknown cause. 
Mother died of old age at ___.
 
Physical Exam:
Vital Signs:
T=98.1 BP=135/73 HR=78 RR=20 O2sat=97 on Room Air
General: NAD
HEENT: anicteric, mucus membranes moist
Cardiovascular: RRR
Pulmonary: breathing unlabored and symmetric
Abdominal: Soft and non-tender.   6 surgical incision sites are 
non-erythematous and healing well.  PTC is on right side and 
capped. 
Ext: warm and well perfused
 
Pertinent Results:
Most recent Labs
___ 04:40AM BLOOD WBC-10.6* RBC-3.73* Hgb-12.5* Hct-36.8* 
MCV-99* MCH-33.5* MCHC-34.0 RDW-12.4 RDWSD-44.8 Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:40AM BLOOD Glucose-149* UreaN-18 Creat-1.1 Na-136 
K-4.4 Cl-99 HCO3-25 AnGap-16
___ 04:40AM BLOOD Calcium-8.9 Phos-2.1* Mg-1.6
 
Brief Hospital Course:
Mr. ___ underwent robotic minimally invasive cholecystectomy 
with side-to-side roux-en-y cholejejunostomy on ___ by Dr. 
___.  The procedure went well, without complications however 
significant abdominal adhesions were present (please see the 
operative note for details). Estimated blood loss was 25cc, 
urine output 150cc, and he received 2000cc crystalloid fluid. No 
evidence of liver metastasis was found.  The patient had low 
urine output in the OR (150 cc) and an elevated creatine 
afterwards (1.7 from 1.0 preop) and was bolused 500cc.  On POD1 
his creatinine improved to 1.2. His WBC decreased from 16.4 
post-op to 10.6 the following day. His hemoglobin was stable. 

Aside from this, his post operative course has been uneventful.  
He remained hemodynamically stable and afebrile throughout the 
post-operative period. On POD1 his NG tube was removed and he 
was started on SIPS.  On POD2 his home meds were started and he 
began a clear liquid diet which he tolerated well.  POD3 his 
foley was removed and he voided spontaneously and his PTC drain 
was capped. POD4 he was advanced to a full liquid diet which he 
tolerated and his ___ drain was removed.  POD5 he continued to 
tolerate full liquids, was ambulating without assistance in the 
halls, voided spontaneously, was passing flatus, and expressed 
his desire and readiness for discharge home. He lives in the 
same building as his son who will help with care. He does not 
need additional therapy or nursing care at home. He should keep 
the PTC capped until follow up in 2 weeks with Dr. ___. He has 
been instructed to undergo a cholangiogram with radiology prior 
to his follow up appointment. He has been scheduled to see Dr. 
___ on ___.  
 
Medications on Admission:
Amlodipine 5 mg once a day
Azelastine 137 mcg nasal spra, 2 sprays twice a day
Fluocinonide-emollient
Levothyroxine: 100 mcg tablet once a day
Fluticasone 1 spray in each nostril each AM
 
Discharge Medications:
Amlodipine 5 mg once a day
Azelastine 137 mcg nasal spra, 2 sprays twice a day
Fluocinonide-emollient
Levothyroxine: 100 mcg tablet once a day
Fluticasone 1 spray in each nostril each AM

Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild
OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - Moderate
PRN Colace/senna/miralax
 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
recurrent cholangitis and biliary stenosis now status post 
cholecystectomy and roux-en-y hepaticojejunostomy
 
Discharge Condition:
Mental status: clear and coherent
Level of consciousness: Alert and interactive
Activity status: ambulatory--independent
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You underwent a robotic cholecystectomy and 
side-to-side Roux-en-Y retrocolic choledochojejunostomy for your 
biliary stricture which had caused multiple episodes of 
cholangitis.  Your post operative course was uncomplicated.  You 
are now safe to return home with the following instructions.

Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 

or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
.
General Discharge Instructions:
Please resume all regular home medications , unless specifically 

advised not to take a particular medication. Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications. 
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.

-ok to shower, cover drain and pat dry after
-no heavy lifting >10lbs or strenuous exercise for at least 6 
weeks
-light exercise ok
-full liquid diet only
 
Followup Instructions:
___